US08754100B2
Synthesis of ethyl 5-chloro-2-[1-(2-trifluoromethylphenyl)methylidene]pentanoate
2-(Trifluoromethyl)benzaldehyde (1 g) and ethyl 5-chloro-2-(diethoxyphosphoryl)pentanoate (CAS No. 870843-20-2, 2.1 g) were dissolved in a mixed solvent of tetrahydrofuran (30 mL) and ethanol (10 mL). Lithium hydroxide (412 mg) was added and the mixture was stirred at room temperature overnight. Water was added to the reaction solution, followed by extraction with ethyl acetate. The resulting organic layer was washed with brine and then dried over anhydrous sodium sulfate. The drying agent was separated by filtration, and then the organic layer was concentrated under reduced pressure. The residue was purified by silica gel column chromatography to obtain a geometric isomer mixture of the title compound (1.4 g).

reactant | 2-(Trifluoromethyl)benzaldehyde | 1 g | FC(C1=C(C=O)C=CC=C1)(F)F | C8H5F3O
reactant | ethyl 5-chloro-2-(diethoxyphosphoryl)pentanoate | ClCCCC(C(=O)OCC)P(=O)(OCC)OCC | C11H22ClO5P
reactant | Lithium hydroxide | 412 mg | [OH-].[Li+]
reactant | Water | O | H2O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | ethyl 5-chloro-2-[1-(2-trifluoromethylphenyl)methylidene]pentanoate | 1.4 g | ClCCCC(C(=O)OCC)=CC1=C(C=CC=C1)C(F)(F)F | C15H16ClF3O2
